US07132551B2
A solution of 3-(S)-Phenylcarbamoyl-piperidine-1-carboxylic acid benzyl ester (1.80 mol, 608 mg) and Pd—C 30% (100 mg) in CH3OH (10 mL) at 25° C. were added to a Paar hydrogenator low pressure reaction vessel. The mixture was reacted at 55 psi with vigorous shaking until hydrogen uptake subsided (2 h). The catalyst was filtered through a pad of celite. The filtrate was concentrated in vacuo which provided piperidine-3-carboxylic acid phenylamide (367 mg, 367 mg theoretical, 99%) as a white foam: LRMS m/z 205 (M++1, C12H16N2O requires 205).

reactant | 3-(S)-Phenylcarbamoyl-piperidine-1-carboxylic acid benzyl ester | 1.80 mol, 608 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@H](CCC1)C(NC1=CC=CC=C1)=O | C20H22N2O3
reactant | hydrogen | [H][H] | H2
solvent | CH3OH | 10 mL | CO | CH4O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | piperidine-3-carboxylic acid phenylamide | 367 mg, 99% | C1(=CC=CC=C1)NC(=O)C1CNCCC1 | C12H16N2O
